US08231946B2
Synthesis of 5-norbornene-2-methyl-(3,4-di-fluoro-cinnamate)
5 g (27.2 mmol) of 3,4-di-fluoro-cinnamic acid, 3.38 g (1 eq.) of 5-norbornene-2-methanol, and 0.13 g (0.02 eq.) of zirconium(IV) acetate hydroxide were added to 50 ml of xylene and stirred. The mixture was heated to 145° C. under N2 atmosphere and azeotropically refluxed for 24 hours. After the reaction, the mixture cooled down to room temperature and was added with 100 volume % of ethyl acetate. The resulting product was extracted by 1M HCl and washed again with water. The organic layer was dried with Na2SO4 and the solvent was evaporated out to give a highly viscous material. (Yield: 63%, Purity (GC): 80%)

reactant | 3,4-di-fluoro-cinnamic acid | 27.2 mmol, 5 g | FC=1C=C(C=CC(=O)O)C=CC1F | C9H6F2O2
reactant | 5-norbornene-2-methanol | 3.38 g, 1 eq. | C12C(CC(C=C1)C2)CO | C8H12O
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | zirconium(IV) acetate hydroxide | 0.13 g, 0.02 eq. | [OH-].C(C)(=O)[O-].[Zr+4]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-norbornene 2-methyl-(3,4-di-fluoro-cinnamate) | Yield: 63% | C12CCC(C=C1)C2.CC1=C(C=CC(=O)[O-])C=CC(=C1F)F | InChI=1S/C10H8F2O2.C7H10/c1-6-7(3-5-9(13)14)2-4-8(11)10(6)12;1-2-7-4-3-6(1)5-7/h2-5H,1H3,(H,13,14);1-2,6-7H,3-5H2/p-1
